* ============================================
* Test: monte_carlo_wm.spice
* Cell: 9T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-07-14
* Monte Carlo mismatch-only word-line write margin (WLWM) yield sweep.
* Corner/temp/VDD come entirely from pvt.spice (driven by the Python
* PVT sweep) - this deck does not hardcode a corner.
* ============================================

* -- includes --
.include /workspace/analog/characterization/pvt.spice
.include /workspace/analog/testbench/9T_tb.spice

* -- mismatch-only MC --
* Global process variation is already fixed by the PVT corner .lib call
* above (in pvt.spice) - enabling sw_stat_global too would double-count
* it, so only per-instance mismatch is turned on here.
.param sw_stat_mismatch=1
.param sw_stat_global=0

* -- stimulus --
VVDD vdd 0 {VDD_CORNER}             ; supply
VVSS vss 0 0                        ; source
VA   a   0 {VDD_CORNER}             ; set Activation = HI

** Parameters
.param V1=0
.param Td=2n
.param Tr=0.1n
.param Tf=0.1n
.param PW=3n
.param PER=50n
.param NP=1

** Sources
VWBLB WBLB 0 DC {VDD_CORNER}
VWBL  WBL  0 DC 0
VWL   WL  0 PULSE({V1} {VDD_CORNER} {Td} {Tr} {Tf} {PW} {PER} {NP})

** Initial States
.ic v(q)={VDD_CORNER} v(qb)=0

** Control Section Params
.csparam V_H={VDD_CORNER}
.csparam V_L=0
.csparam V1={V1}
.csparam Td={Td}
.csparam Tr={Tr}
.csparam Tf={Tf}
.csparam PW={PW}
.csparam PER={PER}
.csparam NP={NP}
.csparam tran_time=0.1u

* -- per-iteration bisection chatter: off by default for 1000-run MC
*    (the "WORD-LINE WRITE MARGIN" banner + per-iter echoes from
*    write_margin.spice are dropped here for the same reason
*    monte_carlo_hold.spice dropped hold_snm.spice's banners - not useful
*    at MC scale). Flip to 1 for debugging a single run. --
.csparam verbose=0

.control
save all

  * --- Monte Carlo loop ---
  * each pass: reset (forces every agauss()-based mismatch term in the
  * PDK subckts to redraw) ONCE, then run the full endpoint-check +
  * bisection sequence identical to write_margin.spice on that single
  * mismatch draw. Resetting mid-bisection would redraw the mismatch
  * between tran calls and corrupt the bisection for that sample, so
  * reset happens only at the top of the outer loop.
  * Skips are split into two buckets so we know whether failures were
  * solver (non-convergence) or setup (bad endpoints):
  *   n_skipped_conv     - a tran call did not converge
  *   n_skipped_endpoint - WL=VDD didn't flip and/or WL=0 did flip
  *
  * Each tran call creates a new ngspice plot; ngspice never frees old
  * plots on its own (reset reloads the circuit, it does not destroy
  * plot history) and "save all" keeps every node's full waveform for
  * every plot. Over 1000 runs x up to 11 trans/run that accumulates
  * without bound - RSS grows continuously and per-iteration bookkeeping
  * (plot/vector lookups) slows down as the plot list grows. So every
  * tran below is followed by "destroy $curplot" once its result
  * (final_q) has been consumed - never sooner, since final_q is itself
  * a vector living in that same plot and destroying it before use
  * leaves final_q undefined.
  let nruns = 1000
  let n = 0
  let n_skipped_conv = 0
  let n_skipped_endpoint = 0

  dowhile n < nruns

    reset

    let WL_H = V_H
    let WL_L = V_L
    let max_err = 0.01
    let v_trip  = V_H/2
    let run_ok = 1

    * =========================================================
    *  ENDPOINT CHECKS  (bisection is only valid if both pass)
    * =========================================================
    * -- Endpoint 1: WL = VDD must FLIP --
    let flip_b = 0
    alter @vwl[pulse] = [ $&V1 $&V_H $&Td $&Tr $&Tf $&PW $&PER $&NP ]
    tran 0.1n $&tran_time uic
    if $sim_status <> 0
      let run_ok = 0
    else
      let final_q = v(q)[length(v(q))-1]
      if final_q le v_trip
        let flip_b = 1
      end
    end
    destroy $curplot

    * -- Endpoint 2: WL = 0 must NOT flip --
    let noflip_b = 0
    if run_ok = 1
      alter @vwl[pulse] = [ $&V1 $&V_L $&Td $&Tr $&Tf $&PW $&PER $&NP ]
      tran 0.1n $&tran_time uic
      if $sim_status <> 0
        let run_ok = 0
      else
        let final_q = v(q)[length(v(q))-1]
        if final_q gt v_trip
          let noflip_b = 1
        end
      end
      destroy $curplot
    end

    if run_ok = 0
      echo "run $&n: tran did not converge (endpoint check) - skipped"
      let n_skipped_conv = n_skipped_conv + 1
    else
      let bool_b = flip_b * noflip_b
      if bool_b = 0
        echo "run $&n: [FAIL] endpoints invalid - skipped"
        let n_skipped_endpoint = n_skipped_endpoint + 1
      else
        * =========================================================
        *  BISECTION
        * =========================================================
        setplot const
        let WL_H = V_H
        let WL_L = V_L
        let iter = 0

        while WL_H-WL_L > max_err
          let WL_m = (WL_H + WL_L)/2
          alter @vwl[pulse] = [ 0 $&WL_m $&Td $&Tr $&Tf $&PW $&PER $&NP ]
          tran 0.1n $&tran_time uic
          if $sim_status <> 0
            let run_ok = 0
            destroy $curplot
            break
          end
          let final_q = v(q)[length(v(q))-1]
          let iter = iter + 1

          if final_q < v_trip
            let WL_H = WL_m
            if $&verbose = 1
              echo "  iter $&iter : WL_m=$&WL_m  -> flip      [hi=$&WL_H lo=$&WL_L]"
            end
          else
            let WL_L = WL_m
            if $&verbose = 1
              echo "  iter $&iter : WL_m=$&WL_m  -> no-flip   [hi=$&WL_H lo=$&WL_L]"
            end
          end
          destroy $curplot
        end

        if run_ok = 0
          echo "run $&n: tran did not converge (bisection) - skipped"
          let n_skipped_conv = n_skipped_conv + 1
        else
          let WL_crit = WL_H
          let mc_wlwm = V_H - WL_H

          * --- greppable per-run sample: "mc_wlwm = <value>" ---
          print mc_wlwm
        end
      end
    end

    let n = n + 1
  end

  let n_skipped = n_skipped_conv + n_skipped_endpoint
  let n_valid = nruns - n_skipped
  echo
  echo "Monte Carlo done: nruns=$&nruns  skipped=$&n_skipped (solver=$&n_skipped_conv endpoint=$&n_skipped_endpoint)  effective_samples=$&n_valid"

.endc
.end
